US06348474B1
Methyl 3-(2-chloro-4-((imidazol-1-yl)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(2-chloro-4-((methanesulfonyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (300 mg) in dichloromethane (6.0 ml) was added imidazole (193 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was washed with diethyl ether, and collected by filtration to give the objective compound (213 mg) as a pale-yellow powder.

reactant | methyl 3-(2-chloro-4-((methanesulfonyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 300 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)COS(=O)(=O)C | C18H18ClN3O5S
reactant | imidazole | 193 mg | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
product | Methyl 3-(2-chloro-4-((imidazol-1-yl)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 213 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)CN1C=NC=C1 | C20H18ClN5O2
